US03974218
Preparation of N-benzyl-N-isopropylpivalamide
A one-liter reaction flask fitted with a power stirrer, heating mantle, dropping funnel, thermometer, water-cooled condenser and drying tube was charged with 149.2 g (1.0 mole) N-benzyl-N-isopropylamine, 350 ml of benzene and 111.1 g (1.1 mole) of triethylamine. The dropping funnel contained 126.6 g (1.05 mole) of pivalyl chloride which was added dropwise to the stirred reaction mixture. After the addition was completed, the reaction mixture was stirred and heated at 75-80° for 18 hours. The mixture was cooled and the amine-salt was collected on a vacuum filter. The filtrate was transferred to a separatory funnel and extracted with water which was followed by dilute aqueous hydrochloric acid. The organic phase was dried over sodium sulfate. After removing the drying agent, the solvent was evaporated. The liquid residue was transferred to a pot which was appropriately fitted for a simple vacuum distillation. The forecut material proved to be mainly trimethylacetyl chloride and trimethylacetic acid. The product fraction weighed 188.6 g, b.p. 86-87/0.07 mm, nD25 1.5074.

reactant | water | O | H2O
reactant | N-benzyl-N-isopropylamine | 1.0 mole, 149.2 g | C(C1=CC=CC=C1)NC(C)C | C10H15N
reactant | triethylamine | 1.1 mole, 111.1 g | C(C)N(CC)CC | C6H15N
reactant | pivalyl chloride | 1.05 mole, 126.6 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | N-benzyl-N-isopropylpivalamide | C(C1=CC=CC=C1)N(C(C(C)(C)C)=O)C(C)C | C15H23NO
